US08071584B2
3-(1,1-Dioxidotetrahydro-2H-thiopyran-4-yl)-5-{5-[(methyloxy)methyl]-2-thienyl}-1H-indole-7-carboxamide
2-Bromo-5-[(methyloxy)methyl]thiophene (35 mg, 0.16 mmol), 3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole-7-carboxamide (55 mg, 0.13 mmol) and K2CO3 (83 mg, 0.14 mmol) was taken up in 1,4-dioxane (3 mL) and water (1.5 mL) in a microwave vial. The mixture was degassed by bubbling argon through it for 5 min. PdCl2(dppf) (17 mg, 0.023 mmol) was added, and the reaction was heated in a microwave for 5 min at 100° C. The reaction mixture was concentrated, diluted in DMSO, and purified on a Gilson HPLC (NH4OH buffer), giving 18.2 mg (43%) of the title compound.

reactant | 2-Bromo-5-[(methyloxy)methyl]thiophene | 0.16 mmol, 35 mg | BrC=1SC(=CC1)COC | C6H7BrOS
reactant | 3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole-7-carboxamide | 0.13 mmol, 55 mg | O=S1(CCC(CC1)C1=CNC2=C(C=C(C=C12)B1OC(C(O1)(C)C)(C)C)C(=O)N)=O | C20H27BN2O5S
reactant | K2CO3 | 0.14 mmol, 83 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 1.5 mL | O | H2O
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.023 mmol, 17 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-(1,1-Dioxidotetrahydro-2H-thiopyran-4-yl)-5-{5-[(methyloxy)methyl]-2-thienyl}-1H-indole-7-carboxamide | 18.2 mg, 43% | O=S1(CCC(CC1)C1=CNC2=C(C=C(C=C12)C=1SC(=CC1)COC)C(=O)N)=O | C20H22N2O4S2
